US06180622B2
c) (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine (diastereomer mixture)
Potassium thioacetate (204 mg) is added to a solution of 236.9 mg of (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine (a diastereomer mixture) in 10 ml of DMF, and the mixture is stirred under an argon stream a 70° C. for 5 hr. The reaction solution is cooled, water is added thereto, and the mixture is extracted three times with ethyl acetate. The organic layer is washed once with saturated saline, dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation under reduced pressure. The resultant crude product is purified by column chromatography on silica gel (hexane:acetone=1:1) to give 136.4 mg of the title compound (a diastereomer mixture) as a brown oil.

reactant | Potassium thioacetate | 204 mg | C(C)(=S)[O-].[K+]
reactant | (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine | 236.9 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(C1=CN2C(S1)=CN=C2)O)OS(=O)(=O)C | C15H19N3O6S2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine | 136.4 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(C1=CN2C(S1)=CN=C2)O)C(=O)OCC=C | C16H19N3O4S2
